US07179801B2
To a suspension of lithium aluminum hydride (8.94 g) in tetrahydrofuran (600 ml) was added 1-propyl-5-tritylamino-1H-pyrazole-4-carbonitrile (37 g) at room temperature. The mixture was refluxed for 7 days. After cooling on an ice bath, sodium fluoride (40 g) and water (17 ml) were added to the reaction mixture. The insoluble materials were removed by filtration. To the filtrate was added ethyl formate, and the mixture was refluxed for 24 hours. After evaporation of the solvent in vacuo, the residue was triturated with diisopropyl ether and dried in vacuo to give 4-aminomethyl-1-propyl-5-tritylaminopyrazole (30.3 g).

reactant | lithium aluminum hydride | 8.94 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-propyl-5-tritylamino-1H-pyrazole-4-carbonitrile | 37 g | C(CC)N1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C#N | C26H24N4
reactant | sodium fluoride | 40 g | [F-].[Na+]
reactant | water | 17 ml | O | H2O
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | 4-aminomethyl-1-propyl-5-tritylaminopyrazole | 30.3 g | NCC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C26H28N4
